US05985798
Glyphosate acid, 169.07 g, was reacted with 90 g of isopropylamine in 122 g of distilled water in a closed vessel to produce a isopropylammonium glyphosate salt solution. (The closed vessel was necessary because the reaction is exothermic and isopropylamine boils at about 25° C.) The pressure within the vessel at first increases and then decreases as the reaction proceeds. The product, a clear viscous liquid, is miscible with water in all proportions and has a pH of about 6.5.

reactant | Glyphosate | C(C(=O)O)NCP(=O)(O)O | C3H8NO5P
reactant | isopropylamine | 90 g | C(C)(C)N | C3H9N
solvent | water | 122 g | O | H2O
product | isopropylammonium glyphosate | C(C)(C)[NH3+].C(C(=O)O)NCP(=O)(O)O | InChI=1S/C3H8NO5P.C3H9N/c5-3(6)1-4-2-10(7,8)9;1-3(2)4/h4H,1-2H2,(H,5,6)(H2,7,8,9);3H,4H2,1-2H3/p+1
